US04645765
To a solution of 11-acetyl-8-carbamoyloxymethyl-4-formyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate (29 mg) in acetone (2 ml) was added a mixture of chromium trioxide (26 mg), water (76 μl) and sulfuric acid (22 μl) in an ice-water bath. After stirring for 30 minutes in an ice-water bath, isopropyl alcohol (2 ml) was added to the reaction mixture. The resultant mixture was then poured into water (10 ml) and extracted with a mixture of chloroform and methanol (2:1, v/v) (10 ml×5). The extracts were combined and dried over magnesium sulfate, and then evaporated in vacuo. The residue was subjected to preparative thin layer chromatography, which was developed with a mixture of chloroform, methanol and water (65:25:4, v/v) to afford 6,9-diacetoxy-8-carbamoyloxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carboxylic acid (5 mg).

reactant | 11-acetyl-8-carbamoyloxymethyl-4-formyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate | 29 mg | C(C)(=O)OC=1C=C(C=C2N3CC4N(C4C(C(C12)COC(N)=O)(O3)OC(C)=O)C(C)=O)C=O | C20H21N3O9
reactant | water | 76 μl | O | H2O
reactant | sulfuric acid | 22 μl | S(O)(O)(=O)=O | H2O4S
reactant | isopropyl alcohol | 2 ml | C(C)(C)O | C3H8O
reactant | water | 10 ml | O | H2O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
catalyst | chromium trioxide | 26 mg | [O-2].[O-2].[O-2].[Cr+6]
product | 6,9-diacetoxy-8-carbamoyloxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carboxylic acid | 5 mg | C(C)(=O)OC=1C=C(C=C2N3CC4NC4C(C(C12)COC(N)=O)(O3)OC(C)=O)C(=O)O | C18H19N3O9
